US07923450B2
a) 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-ol
A solution of crude 6-[1-dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone (1002 mg, 2.7 mmol), N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate (948 mg, 3.3 mmol) and triethyl amine (546 mg, 5.4 mmol) in ethanol (13.5 mL) was heated to 160° C. for 30 minutes in a microwave oven. The reaction was concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure to yield 1340 mg of crude intermediate. This was dissolve in tetrahydrofurane (13.5 mL) and under nitrogen 1M TBAF solution in tetrahydrofurane (4.0 mL) was added. The reaction was stirred at room temperature over night and was concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was purified on silica gel using dichloromethane/methanol (9:1 v/v) as eluent to yield the title compound (765 mg, 81%) as a brown foam. MS ISP (m/e): 352.3 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.67 (s, 1H), 8.30 (s, 1H), 7.98 (s, 1H), 7.65 (s, 1H), 7.38 (d, 1H), 7.20 (d, 1H), 7.03 (s, 1H), 5.24 (d, 1H), 4.44 (m, 1H), 3.79 (s, 3H), 2.55-2.65 (m, 2H), 2.14 (s, 3H), 1.65-1.95 (m, 4H).

reactant | 6-[1-dimethylamino-meth-(E)-ylidene]-2-hydroxy-2-pyridin-3-yl-cyclohexanone | 2.7 mmol, 1002 mg | CN(\C=C\1/CCCC(C1=O)(C=1C=NC=CC1)O)C | C14H18N2O2
reactant | N-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-guanidine dinitrate | 3.3 mmol, 948 mg | [N+](=O)(O)[O-].[N+](=O)(O)[O-].COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=N)N
reactant | triethyl amine | 5.4 mmol, 546 mg | C(C)N(CC)CC | C6H15N
solvent | ethanol | 13.5 mL | C(C)O | C2H6O
solvent | tetrahydrofurane | 13.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4.0 mL | O1CCCC1 | C4H8O
product | 2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-5,6,7,8-tetrahydro-quinazolin-8-ol | 765 mg, 81% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC1=NC=2C(CCCC2C=N1)O | C19H21N5O2
